US07060827B2
7.3.208 N4-(3,4-Ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine (R926210)
To a solution of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine (0.028 g, 0.1 mmol) in MeOH: H2O (1.8: 0.2 mL) was added 3-hydroxyaniline (0.033 g, 0.3 mmol) and heated in a sealed tube at 100° C. for 24 h. The resulting reaction was diluted with H2O (10 mL), acidified with 2N HCl (pH >2), saturated and the resulting solid was filtered to give the desired product, N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl))-2,4-pyrimidinediamine (R926210). Purification can be done by filtration through a pad of silica gel using 1–5% MeOH in CH2Cl2 or by crystallization using an appropriate solvent system. 1H NMR (CDCl3+CD3OD): δ 7.76 (bs, 1H), 7.30 (d, 1H, J=2.4 Hz), 7.10 (m, 1H), 7.03 (t, 1H, J=8.1 Hz), 6.89 (dd, 2H, J=2.4 and 9 Hz), 6.78 (d, 1H, J=8.7 Hz), 6.42 (dd, 1H, J=2.4 and 9 Hz), 4.22 (m, 4H); 19F NMR (CDCl3+CD3OD): −47196; LCMS: ret. time: 19.55 min.; purity: 95%; MS (m/e): 355 (MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | 0.1 mmol, 0.028 g | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-hydroxyaniline | 0.3 mmol, 0.033 g | OC=1C=C(N)C=CC1 | C6H7NO
reactant | HCl | 2N, pH >2 | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | H2O | 10 mL | O | H2O
solvent | H2O | 0.2 mL | O | H2O
product | N4-(3,4-Ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
